US06710043B1
To a suspension of 1-acetyl-4-aminopiperidine hydrochloride (536 mg) in dichloromethane (5 ml) were added 4-fluorophenyl isocyanate (375 μl) and diisopropylethylamine (575 μl ) at ambient temperature. After stirring for 3 hours, the reaction mixture was diluted with dichloromethane. An organic phase was separated and an aqueous phase was extracted with dichloromethane. A combined organic phase was dried over magnesium sulfate and the solvents were removed under reduced pressure. After crystallization from diisopropyl ether and n-hexane, N-(1-acetylpiperidin-4-yl)-N′-(4-fluorophenyl)urea (448 mg) was obtained.

reactant | 1-acetyl-4-aminopiperidine hydrochloride | 536 mg | Cl.C(C)(=O)N1CCC(CC1)N
reactant | 4-fluorophenyl isocyanate | 375 μl | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | diisopropylethylamine | 575 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(1-acetylpiperidin-4-yl)-N′-(4-fluorophenyl)urea | 448 mg | C(C)(=O)N1CCC(CC1)NC(=O)NC1=CC=C(C=C1)F | C14H18FN3O2
